US06638926B2
(5-Carbamoyl-2H-pyrazol-3-yl)-(2-phenyl-quinazolin-4-yl)-amine (III-100)
To a solution of 5-(2-phenyl-quinazolin-4-ylamino)-1H-pyrazole-3-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester (270 mg, 0.63 mmol) in DMF (20 ml) was added a solution of ammonia in 1,4-dioxane (0.5 M, 10 ml). The resulting mixture was stirred at room temperature for 24 h. After concentration of the solvents, the residue was added to water (20 ml). The resulting precipitate was collected to afford III-100 (168 mg, 80%)as a yellow solid. 1H NMR (500MHz, DMSO-d6) δ7.77-7.51 (m, 6H), 7.86 (br s, 2H), 8.11 (m, 1H), 8.50 (m, 2H), 8.63 (m, 1H), 10.52 (s, 1H), 11.25 (s, 1H); EI−MS 331.1 (M+H); HPLC-Method A, Rt 2.52 min.

reactant | 5-(2-phenyl-quinazolin-4-ylamino)-1H-pyrazole-3-carboxylic acid 2,5-dioxo-pyrrolidin-1-yl ester | 0.63 mmol, 270 mg | O=C1N(C(CC1)=O)OC(=O)C1=NNC(=C1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C22H16N6O4
reactant | ammonia | N | H3N
reactant | water | 20 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | 1,4-dioxane | 0.5 M, 10 ml | O1CCOCC1 | C4H8O2
product | (5-Carbamoyl-2H-pyrazol-3-yl)-(2-phenyl-quinazolin-4-yl)-amine | C(N)(=O)C=1C=C(NN1)NC1=NC(=NC2=CC=CC=C12)C1=CC=CC=C1 | C18H14N6O
